US04846875
This compound was prepared in a manner similar to Example 1 Step F using 2,4-dichloro-5-nitrotoluene (62.0 g, 0.3 mole), N-bromosuccinimide (160.2 g, 0.9 mole), benzoyl peroxide (2.0 g) and carbon tetrachloride (500 ml) to yield (2,4-dichloro-5-nitrophenyl)methyl bromide. The NMR spectrum was consistent with the proposed structure.

reactant | 2,4-dichloro-5-nitrotoluene | 0.3 mole, 62.0 g | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])C | C7H5Cl2NO2
reactant | N-bromosuccinimide | 0.9 mole, 160.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 2.0 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | (2,4-dichloro-5-nitrophenyl)methyl bromide | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])CBr | C7H4BrCl2NO2
